US09255094B2
To a stirred solution of 6-methoxy-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (500 mg, 2.3 mmol) in DMF (10 mL) was added sodium hydride (276 mg, 6.9 mmol) and stirred for 10 min at RT, followed by addition of 4-(2-methyl-oxiranyl)-pyridine (468 mg, 3.4 mmol) and stirring continued for another 16 h. The reaction mixture was poured into ice water and extracted with EtOAc. The organic layer was washed with water, dried over sodium sulfate and concentrated to afford crude material, which was re-crystallized in ether and hexane to yield 1-(6-methoxy-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)propan-2-ol. 1H NMR (CD3OD, TFA salt) d (ppm): 8.60 (m, 2H), 7.95 (m, 2H), 6.95 (m, 2H), 6.50 (m, 1H), 4.65 (m, 2H), 4.30 (m, 2H), 3.90 (m, 2H), 3.80 (s, 3H), 3.60 (m, 2H), 3.10 (s, 3H), 1.70 (s, 3H).

reactant | 6-methoxy-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 2.3 mmol, 500 mg | COC1=CC=CC=2C3=C(NC12)CCN(C3)C | C13H16N2O
reactant | sodium hydride | 6.9 mmol, 276 mg | [H-].[Na+]
reactant | 4-(2-methyl-oxiranyl)-pyridine | 3.4 mmol, 468 mg | CC1(OC1)C1=CC=NC=C1 | C8H9NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(6-methoxy-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)propan-2-ol | COC1=CC=CC=2C3=C(N(C12)CC(C)(O)C1=CC=NC=C1)CCN(C3)C | C21H25N3O2
